US08664379B2
To a suspension of tert-butyl 4-((2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoate (550 mg, 1.56 mmol) in glacial acetic acid (5 mL) was added dropwise a solution of bromine (800 mg, 5.00 mmol) and potassium bromide (595 mg, 5.0 mmol) in acetic acid (10 mL) under an atmosphere of dry N2, and the mixture stirred at room temperature for 1 hour. The reaction mixture was warmed to 60° C. for 18 hours, then cooled, and the solvent evaporated under reduced pressure. The residue was poured slowly into water (40 mL) with stirring, diethyl ether (3 mL) was added, and the mixture sonicated, filtered, the solid thus obtained was washed with saturated sodium carbonate (30 mL), water (50 mL), diethyl ether (10 mL), and dried under reduced pressure to afford 4-((6-bromo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoic acid (334 mg, 0.89 mmol, 57%). LCMS mz 375.9 (M−H) and 377.9 (M+H), anal HPLC>91% in purity, 1H NMR (400 MHz; CD3CN) δ8.25 (bs, 1H); 8.09 (d, J=8.6 Hz, 2H); 7.65 (d, J=8.6 Hz, 2H); 7.42 (s, 1H); 6.62 (s, 1H); 5.26 (s, 2H); 2.91 (m, 2H); 2.53 (m, 2H).

reactant | tert-butyl 4-((2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoate | 1.56 mmol, 550 mg | O=C1NC2=CC(=CC=C2CC1)OCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C21H23NO4
reactant | bromine | 5.00 mmol, 800 mg | BrBr | Br2
reactant | potassium bromide | 5.0 mmol, 595 mg | [Br-].[K+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-((6-bromo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)methyl)benzoic acid | 0.89 mmol, 334 mg, 57% | BrC=1C=C2CCC(NC2=CC1OCC1=CC=C(C(=O)O)C=C1)=O | C17H14BrNO4
